US08114989B2
2,5-Dichloro-4-(5-cyclopropyl-1H-pyrazole-3-ylamino)pyrimidine
A solution of 2,4,5-trichloropyrimidine (533 mg, 2.93 mmol), 3-amino-5-cyclopropyl-1H-pyrazole (360 mg, 2.93 mmol) and triethylamine (0.49 ml) in EtOH (5 ml) was stirred at room temperature for 10 hours. Solvent was removed and EtOAc was added. The solution was washed with water and dried over anhydrous sodium sulfate and was concentrated to give title compound as a white solid (546 mg, 69%). The compound was carried to the next step without further purification. 1H NMR δ 0.92 (m, 2H), 1.20 (m, 2H), 2.18 (m, 1H), 6.40 (s, 1H), 8.60 (s, 1H), 9.90 (s, 1H), 12.60 (s, 1H).

reactant | 2,4,5-trichloropyrimidine | 2.93 mmol, 533 mg | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | 3-amino-5-cyclopropyl-1H-pyrazole | 2.93 mmol, 360 mg | NC1=NNC(=C1)C1CC1 | C6H9N3
reactant | triethylamine | 0.49 ml | C(C)N(CC)CC | C6H15N
solvent | EtOH | 5 ml | CCO | C2H6O
product | 2,5-Dichloro-4-(5-cyclopropyl-1H-pyrazole-3-ylamino)pyrimidine | 546 mg, 69% | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)Cl | C10H9Cl2N5
